US07105503B2
Preparation of {2-[N′-(3,5-diaminopyrazol-4-ylidene)hydrazino]phenyl}methanol
{2-[N′-(3,5-Diaminopyrazol-4-ylidene)hydrazino]phenyl}methanol was prepared using 2-[(2-hydroxymethylphenyl)hydrazono]malononitrile (0.100 g, 0.5 mmol) which was derived from 3-aminobenzyl alcohol (0.123 g, 1.0 mmol) and malononitrile (1.5 mmol) in a manner similar to that described in Example 2, and hydrazine hydrate. The title compound was obtained as a brown solid (32 mg, yield 28%); 1H NMR (ppm, 200 MHz, DMSO-d6) δ 4.51 (d, 2H), 5.20 (t, 1H), 6.0 (br s, 4H), 7.15 (d, 1H), 7.30 (t, 1H), 7.45–7.60 (m, 2H), 10.60 (br s, 1H).

reactant | 2-[(2-hydroxymethylphenyl)hydrazono]malononitrile | 0.5 mmol, 0.100 g | OCC1=C(C=CC=C1)NN=C(C#N)C#N | C10H8N4O
reactant | 3-aminobenzyl alcohol | 1.0 mmol, 0.123 g | NC=1C=C(CO)C=CC1 | C7H9NO
reactant | malononitrile | 1.5 mmol | C(CC#N)#N | C3H2N2
reactant | hydrazine hydrate | O.NN
product | {2-[N′-(3,5-diaminopyrazol-4-ylidene)hydrazino]phenyl}methanol | NC1=NN=C(C1=NNC1=C(C=CC=C1)CO)N | C10H12N6O
